US06835802B2
Ethyl 6-methylsulfonyloxyhexanoate (XXI)
A solution of non-polydispersed ethyl 6-hydroxyhexanoate (50.76 ml, 50.41 g, 227 mmol) in dry dichloromethane (75 ml) was chilled in a ice bath and placed under a nitrogen atmosphere. Triethylamine (34.43 ml, 24.99 g, 247 mmol) was added. A solution of methanesulfonyl chloride (19.15 ml, 28.3 g, 247 mmol) in dry dichloromethane (75 ml) was added dropwise from an addition funnel. The mixture was stirred for three and one half hours, slowly being allowed to come to room temperature as the ice bath melted. The mixture was filtered through silica gel, and the filtrate was washed successively with water, saturated NaHCO3, water and brine. The organics were dried over Na2SO4, filtered and concentrated in vacuo to a pale yellow oil. Final purification of the crude product was achieved by flash chromatography (silica gel, 1/1 hexanes/ethyl acetate) to give the non-polydispersed product (46.13 g, 85%) as a clear, colorless oil. FAB MS: m/e 239 (M+H), 193 (M—C2H5O).

reactant | ethyl 6-hydroxyhexanoate | 227 mmol, 50.76 ml, 50.41 g | OCCCCCC(=O)OCC | C8H16O3
reactant | Triethylamine | 247 mmol, 34.43 ml, 24.99 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 247 mmol, 19.15 ml, 28.3 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | Ethyl 6-methylsulfonyloxyhexanoate | 46.13 g, 85% | CS(=O)(=O)OCCCCCC(=O)OCC | C9H18O5S
